US08076359B2
Step 6: N[3,5-Bis(3-methoxypropyl)benzyl]cyclopropanamine
To a solution of N-cyclopropyl-3,5-bis(3-methoxypropyl)benzamide (1 eq.) from the previous step in THF (0.18 M) at 80° C. was added borane-dimethylsulfide (10 eq.). The reaction was distilled to about half volume and heated under reflux for 3 h. Then, the reaction was cooled to rt and slowly quenched with 10% HCl aqueous solution. The reaction was heated to reflex again and stirred for 45 min. After cooling to rt, the reaction was diluted with EtOAc and basified with aqueous NaOH solution (pH >10). The organic extract was washed with saturated aqueous NaHCO3, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 25% EtOAc in Hex plus 3% Et3N) to afford the title compound amine 3 as an oil.

reactant | N-cyclopropyl-3,5-bis(3-methoxypropyl)benzamide | 1 eq. | C1(CC1)NC(C1=CC(=CC(=C1)CCCOC)CCCOC)=O | C18H27NO3
reactant | borane dimethylsulfide | 10 eq. | B.CSC
solvent | THF | 0.18 M | C1CCOC1 | C4H8O
product | N[3,5-Bis(3-methoxypropyl)benzyl]cyclopropanamine | COCCCC=1C=C(CNC2CC2)C=C(C1)CCCOC | C18H29NO2
